US05500431
7-chloro-1H-indole-3-ethanamine
A 10.0 g sample of 2-chlorophenylhydrazine hydrochloride and 17.9 g of 4-phthalimidobutyraldehyde diethyl acetal were stirred in 200 mL ethanol with 1 mL 5N HCl. The mixture was concentrated to a residue which was slurried in a small amount of methylene chloride. A yellow solid was collected and vacuum dried at 40° C. The solid was stirred in 500 mL ethanol. Hydrazine hydrate (14 g) was added and the mixture was heated at reflux for 14 hours. A 60 mL sample of 5N HCl was added and the mixture was heated at reflux for 1 hour. The mixture was allowed to cool and was concentrated to a residue. The residue was partitioned between 1N NaOH and chloroform. The organic layer was separated and the aqueous layer was extracted with chloroform. The combined extracts were dried (Na2SO4) and concentrated to an oil. The oil was chromatographed on silica gel using a gradient of 0-10% methanol in chloroform containing 0.2% ammonium hydroxide. Fractions containing product were concentrated to an oil which was taken up in a small amount of methanol and added to ethereal HCl. A solid was collected, washed with diethyl ether, and vacuum dried at 50° C.

reactant | 2-chlorophenylhydrazine hydrochloride | Cl.ClC1=C(C=CC=C1)NN
reactant | 4-phthalimidobutyraldehyde diethyl acetal | 17.9 g | C(C)OC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)OCC | C16H21NO4
reactant | HCl | 5N, 1 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 7-chloro-1H-indole-3-ethanamine | ClC=1C=CC=C2C(=CNC12)CCN | C10H11ClN2
